US08217027B2
((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)methanol (4.72 g, 15.55 mmol) and pyridine (1.384 ml, 17.11 mmol) (Aldrich) were combined in THF (15.55 ml) under nitrogen to give a colorless solution. Di-tert-butyl dicarbonate (3.93 ml, 17.11 mmol) (Fluka) was added and the reaction stirred for about 4 h and a precipitate formed. TLC in 1:1 EtOAc/heptane showed (KMnO4 visualization) reaction complete. Ethyl acetate (150 mL) and water (50 mL) were added and the layers separated and extracted with ethyl acetate (2×25 mL). The combined extracts were washed with brine, dried over magnesium sulfate, filtered, and evaporated to an off-white solid. The residue was purified by flash column chromatography (120 g Redi-Sep) eluting with ethyl acetate/heptane and the product fractions combined. The solvent was removed under reduced pressure to provide tert-butyl (1R,3S)-1-(hydroxymethyl)-3-(4-octylphenyl)cyclopentylcarbamate (4.086 g, 10.12 mmol, 65.1% yield) as a white solid: LC/MS (method f) Rt=3.44 min.; MS m/z: 404.35 (M+H)+.

reactant | ((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)methanol | 15.55 mmol, 4.72 g | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)CO | C20H33NO
reactant | pyridine | 17.11 mmol, 1.384 ml | N1=CC=CC=C1 | C5H5N
reactant | Di-tert-butyl dicarbonate | 17.11 mmol, 3.93 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
solvent | THF | 15.55 ml | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | tert-butyl (1R,3S)-1-(hydroxymethyl)-3-(4-octylphenyl)cyclopentylcarbamate | 10.12 mmol, 4.086 g, 65.1% yield | OC[C@@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)NC(OC(C)(C)C)=O | C25H41NO3
